Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Didn't feel ready to go home
 
Major Surgical or Invasive Procedure:
___ Bilateral battery replacements

 
History of Present Illness:
___ s/p elective bilateral battery replacement for DBS. 
 
Past Medical History:
___ Disease
 
Physical Exam:
Upon discharge:
Awakes, alert, oriented x3, MAE full. Bil chest dressings are 
intact with scant staining.
 
Brief Hospital Course:
Mr ___ was admitted for overnight stay after the patient 
reported not feeling safe to return home after surgery. He was 
admitted overnight. He was unable to void and a foley was 
replaced then discontinued. The patient was noted to be more 
somnolent and Oxycodone was discontinued. The patient was able 
to tolerate a regular diet. He was discharged home on POD 1.
 
Medications on Admission:
BuPROPion 75 mg PO TID 
Carbidopa-Levodopa ___ TAB PO Q1H:PRN parkinsons 
ClonazePAM 1 mg PO QHS 
ClonazePAM 0.5 mg PO DAILY at 12:00 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. BuPROPion 75 mg PO TID 
3. Carbidopa-Levodopa ___ TAB PO Q1H:PRN parkinsons 
4. ClonazePAM 1 mg PO QHS 
5. ClonazePAM 0.5 mg PO DAILY at 12:00 
6. Docusate Sodium 100 mg PO BID 
7. TraMADOL (Ultram) 50 mg PO Q6H:PRN Pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted overnight after bilateral DBS battery 
replacements.

* Please keep your dressing on until ___, you then 
may remove it.
* Please keep your sutures dry until they are removed. Do not 
place any lotions or ointments on them.
* You may resume all home meds.
* Avoid any blood thinning medications or NSAIDs (Ibuprofen, 
Advil) for 7 days.
* You are being sent home with Tramadol for breakthrough pain. 
Please take only if Tylenol does not give you relief. 
 
Followup Instructions:
___